US05153210
1-Benzyl-4-[4-(2,2-ethylenedioxypropyl)phenyl]piperidin-4-ol (10.7 g) in methanol, was hydrogenated at room temperature and pressure over 10% palladium on carbon (5.0 g). After filtration through celite and evaporation of the solvent in vacuo, the residue was crystallised from ethanol:ether to give 4-[4-(2,2-ethylenedioxypropyl)phenyl]piperidin-4-ol (7.0 g).

reactant | 1-Benzyl-4-[4-(2,2-ethylenedioxypropyl)phenyl]piperidin-4-ol | 10.7 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC=C(C=C1)CC1(C)OCCO1 | C23H29NO3
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | 5.0 g | [Pd] | Pd
product | 4-[4-(2,2-ethylenedioxypropyl)phenyl]piperidin-4-ol | 7.0 g | C1OC(CC2=CC=C(C=C2)C2(CCNCC2)O)(C)OC1 | C16H23NO3
